US04939253
(A) 5-(Chloromethyl)-4,5-dihydro-4-oxazolecarboxamide
114 g of chloroacetaldehyde monohydrate, and 84 g of isocyanoacetamide were dissolved in 1000 ml of methanol. The mixture was cooled to 0°-3° C. and a solution of 38 g of 1,8-diazabicyclo[5.4.0]undec-7-ene in 200 ml of methanol was added with string. At this temperature. stirring was continued for 30 minutes, and, after removal of the cooling bath, for an additional hour. The solvent was removed in vacuo and the residue refluxed twice with 1000 ml each time of ethyl acetate. The combined hot extracts were treated with charcoal, filtered while still hot and evaporated to yield the title compound as a crystalline residue, melting point 110°-112° C. after recrystallization from ethyl acetate.

reactant | chloroacetaldehyde monohydrate | 114 g | O.ClCC=O
reactant | isocyanoacetamide | 84 g | [N+](#[C-])CC(=O)N | C3H4N2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 38 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methanol | 1000 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 5-(Chloromethyl)-4,5-dihydro-4-oxazolecarboxamide | ClCC1C(N=CO1)C(=O)N | C5H7ClN2O2
